US04277470
(e) 3-(2-Methoxyphenyl)-5'-pyrrolidino-spiro[bicyclo[2.2.1]-heptane-2,2'-5-pyrroline]hydriodide
12 mmoles of 3-(2-methoxyphenyl)-5'-methylthio-spiro[bicyclo[2.2.1]-heptane-2,2'-5-pyrroline]hydriodide and 2 g of pyrrolidine in 50 ml of ethanol are refluxed. The solvent is stripped off and the residue obtained is recrystallized from isopropanol. Colorless crystals of melting point 228° C.

reactant | 3-(2-methoxyphenyl)-5'-methylthio-spiro[bicyclo[2.2.1]-heptane-2,2'-5-pyrroline]hydriodide | 12 mmoles | I.COC1=C(C=CC=C1)C1C2CCC(C2)C12N=C(CC2)SC
reactant | pyrrolidine | 2 g | N1CCCC1 | C4H9N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(2-Methoxyphenyl)-5'-pyrrolidino-spiro[bicyclo[2.2.1]-heptane-2,2'-5-pyrroline]hydriodide | I.COC1=C(C=CC=C1)C1C2CCC(C2)C12N=C(CC2)N2CCCC2 | InChI=1S/C21H28N2O.HI/c1-24-18-7-3-2-6-17(18)20-15-8-9-16(14-15)21(20)11-10-19(22-21)23-12-4-5-13-23;/h2-3,6-7,15-16,20H,4-5,8-14H2,1H3;1H
